US04452991
Preparation of cis-6-chloro-4b,10,10a,11-tetrahydrobenz(b)indeno(2,1-e)pyran
3-Chloro-2-hydroxybenzyl alcohol (20.0 g) (prepared by the method of Zincke, Hanus and Ziegler, J.Prakt. Chem., (2), 152 126(1939)), and indene (15 ml) were heated together at 190°-200° for 2.5 hr. The crude product was chromatographed on silica gel, eluting with toluene/60°-80° petroleum ether to yield a colourless oil (2.34 g) which was distilled in vacuo to give an oil which crystallised on standing (1.70 g., b.pt. 115°-120°/0.05 mmHg m.pt. 60°-63°). The recrystallised product, from ethanol was identified, by 1H-n.m.r., as cis-6-chloro-4b,10,10a,11-tetrahydrobenz(b)indeno(2,1-e) pyran, (1.20 g., m.pt-63°-65°).

reactant | 3-Chloro-2-hydroxybenzyl alcohol | 20.0 g | ClC=1C(=C(CO)C=CC1)O | C7H7ClO2
reactant | indene | 15 ml | C1C=CC2=CC=CC=C12 | C9H8
product | cis-6-chloro-4b,10,10a,11-tetrahydrobenz(b)indeno(2,1-e)pyran | 2.34 g | ClC1=CC=CC2=C1O[C@H]1[C@@H](C2)CC2=CC=CC=C21 | C16H13ClO
